US07842696B2
Benzenethiol (500 mg, 4.537 mmol) was dissolved in 6 mL of DMF. K2CO3 (940 mg, 6.81 mmol) was then added and the resulting mixture was allowed to stir at room temperature for 10 minutes. 4-Fluorobenzaldehyde (675 mg, 5.4 mmol) was then added and the resulting mixture was allowed to stir at 50° C. for 2 hours. The mixture was then stirred at 80° C. for 3 hours. Water was then added and the product was extracted with EtOAc and washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to afford a crude product. Purification by column chromatography (using 60-120 mesh silica gel and 5:95: EtOAc:Hexane as the eluent) afforded 940 mg (96% yield) of 4-phenylsulfanyl-benzaldehyde. LC-MS purity: 91.3

reactant | Benzenethiol | 4.537 mmol, 500 mg | C1(=CC=CC=C1)S | C6H6S
reactant | K2CO3 | 6.81 mmol, 940 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-Fluorobenzaldehyde | 5.4 mmol, 675 mg | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | Water | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | Hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-phenylsulfanyl-benzaldehyde | 940 mg, 96% yield | C1(=CC=CC=C1)SC1=CC=C(C=O)C=C1 | C13H10OS
